* UCC21550-Q1 - Rev. A
* Created by Sean Cashin; 2023-10-19
* Created with PSPICE for TI Macro-model Architecture
* Copyright 2023 by Texas Instruments Corporation
******************************************************
* MACRO-MODEL SIMULATED PARAMETERS:
******************************************************
* SWITCHING PARAMETERS
**********************
* OUTPUT RISE AND FALL TIME
* PROPAGATION DELAY
* EN RESPONSE DELAY
**********************
* DC PARAMETERS
**********************
* VCC AND VDD QUIESCENT CURRENT (Iq) 
* VCC AND VDD UVLO THRESHOLDS AND DELAY
* INPUT THRESHOLDS AND DELAY
* OUTPUT DRIVER PEAK CURRENT AND MINIMUM OUTPUT RESISTANCE (Io+/- & Rol/h)
* ACTIVE PULL-DOWN  (Voutpd)
* SHORT-CIRCUIT OUTPUT CURRENT (Isc)
******************************************************
.subckt UCC21550-Q1 INA INB VCCI GND DIS DT VDDA OUTA VSSA VDDB OUTB VSSB
******************************************************
C_C10         GND VSSB  0.6E-12   
C_C11         GND VSSA  0.6E-12   
C_C12         0 INA_2  1E-9   
C_C13         0 INB_2  1E-9   
C_C14         0 EN_0  1E-9   
C_C15         0 INA_1  1E-12   
C_C16         0 INB_1  1E-12   
C_C17         0 N649519  1E-12   
C_C18         0 N659695  1E-12   
C_C19         0 UVLO_A  10E-9   
C_C20         0 N662291  1E-12   
C_C21         0 UVLO_B  10E-9   
C_C22         0 EN_1  1E-12   
C_C3         0 UVLO_VC  19E-9   
C_C4         N442623 INA_2  0.1E-9   
C_C5         DT_B 0  1E-9   
C_C6         N451531 INB_2  0.1E-9   
C_C7         DT_A 0  1E-9   
I_I1         DT_B 0 DC 1E-3  
I_I2         DT_A 0 DC 1E-3  
I_IQ1         VCCI N427387 DC 3.2E-3  
I_IQ2         VCCI GND DC 1.5E-3  
I_IQ_VDDA         VDDA VSSA DC 2.4E-3  
I_IQ_VDDB         VDDB VSSB DC 2.4E-3  
R_R10         N504634 0  1 TC=0,0 
R_R11         N516477 DT  1 TC=0,0 
R_R12         DTV DT4  1 TC=0,0 
R_R4         0 N442623  100 TC=0,0 
R_R6         0 N451531  100 TC=0,0 
R_R7         INA_2 N583676  15 TC=0,0 
R_R8         INB_2 N544340  15 TC=0,0 
R_RIQ         N427387 VCCI  1E6 TC=0,0 
R_R_EN         EN_1 GND  90E3 TC=0,0 
R_R_EN_1         EN_1 10V  1E3 TC=0,0 
R_R_INA         INA GND  90E3 TC=0,0 
R_R_INB         INB GND  90E3 TC=0,0 
R_R_INB1         VSSA GND  1E9 TC=0,0 
R_R_INB3         VSSB GND  1E9 TC=0,0 
R_R_INB4         INB_1 0  10E3 TC=0,0 
R_R_INB5         INA_1 0  10E3 TC=0,0 
V_V3         10V 0 10VDC
V_V5         DT0 0 0.7
V_VMIN_DT         MIN_DT N504634 0.2E-3
X_S29    INB GND N427387 GND SCHEMATIC1_S29_UCC21550-Q1 
X_S39    N442623 0 DTV DT_B SCHEMATIC1_S39_UCC21550-Q1 
X_S40    DT_B 0 DT_B 0 SCHEMATIC1_S40_UCC21550-Q1 
X_S41    N451531 0 DTV DT_A SCHEMATIC1_S41_UCC21550-Q1 
X_S42    DT_A 0 DT_A 0 SCHEMATIC1_S42_UCC21550-Q1 
X_S46    VDDA_4A N470279 VDDA_4A N470279 SCHEMATIC1_S46_UCC21550-Q1 
X_S47    VDDB_4A N471539 VDDB_4A N471539 SCHEMATIC1_S47_UCC21550-Q1 
X_S54    DT3 N516477 DT3 N516477 SCHEMATIC1_S54_UCC21550-Q1 
X_S55    DT GND EN_0 EN_1 SCHEMATIC1_S55_UCC21550-Q1 
X_S56    INB_2 GND EN_0 EN_1 SCHEMATIC1_S56_UCC21550-Q1 
X_S57    INA_2 GND EN_0 EN_1 SCHEMATIC1_S57_UCC21550-Q1 
X_S58    INA GND N427387 GND SCHEMATIC1_S58_UCC21550-Q1 
X_S59    INA GND 10V N583676 SCHEMATIC1_S59_UCC21550-Q1 
X_S60    INA GND N583676 0 SCHEMATIC1_S60_UCC21550-Q1 
X_S61    INA_1 0 VDDA_4A OUTA SCHEMATIC1_S61_UCC21550-Q1 
X_S62    INA_1 0 N470279 OUTA SCHEMATIC1_S62_UCC21550-Q1 
X_S64    INA_1 0 OUTA VSSA_6A SCHEMATIC1_S64_UCC21550-Q1 
X_S65    INB_1 0 N471539 OUTB SCHEMATIC1_S65_UCC21550-Q1 
X_S66    INB_1 0 VDDB_4A OUTB SCHEMATIC1_S66_UCC21550-Q1 
X_S67    INB_1 0 OUTB VSSB_6A SCHEMATIC1_S67_UCC21550-Q1 
X_S68    INB GND 10V N544340 SCHEMATIC1_S68_UCC21550-Q1 
X_S69    INB GND N544340 0 SCHEMATIC1_S69_UCC21550-Q1 
X_S70    VCCI GND 10V N649519 SCHEMATIC1_S70_UCC21550-Q1 
X_S71    VCCI GND N649519 0 SCHEMATIC1_S71_UCC21550-Q1 
X_S72    N649519 UVLO_VC N649519 UVLO_VC SCHEMATIC1_S72_UCC21550-Q1 
X_S73    VDDA VSSA 10V N659695 SCHEMATIC1_S73_UCC21550-Q1 
X_S74    N659695 UVLO_A N659695 UVLO_A SCHEMATIC1_S74_UCC21550-Q1 
X_S75    VDDA VSSA N659695 0 SCHEMATIC1_S75_UCC21550-Q1 
X_S76    VDDB VSSB 10V N662291 SCHEMATIC1_S76_UCC21550-Q1 
X_S77    N662291 UVLO_B N662291 UVLO_B SCHEMATIC1_S77_UCC21550-Q1 
X_S78    VDDB VSSB N662291 0 SCHEMATIC1_S78_UCC21550-Q1 
X_S79    N672640 EN_0 N672640 EN_0 SCHEMATIC1_S79_UCC21550-Q1 
X_S80    DIS GND 10V N672640 SCHEMATIC1_S80_UCC21550-Q1 
X_S81    DIS GND N672640 0 SCHEMATIC1_S81_UCC21550-Q1 
X_S_DISA    EN_1 0 N467453 INA_2 SCHEMATIC1_S_DISA_UCC21550-Q1 
X_S_DISB    EN_1 0 N467555 INB_2 SCHEMATIC1_S_DISB_UCC21550-Q1 
X_S_DTA    DT_A 0 N472793 N467453 SCHEMATIC1_S_DTA_UCC21550-Q1 
X_S_DTB    DT_B 0 N472772 N467555 SCHEMATIC1_S_DTB_UCC21550-Q1 
X_S_UVLO_A    UVLO_A 0 INA_1 N487471 SCHEMATIC1_S_UVLO_A_UCC21550-Q1 
X_S_UVLO_B    UVLO_B 0 INB_1 N487477 SCHEMATIC1_S_UVLO_B_UCC21550-Q1 
X_S_UVLO_VCA    UVLO_VC 0 N487471 N472793 SCHEMATIC1_S_UVLO_VCA_UCC21550-Q1 
X_S_UVLO_VCB    UVLO_VC 0 N487477 N472772 SCHEMATIC1_S_UVLO_VCB_UCC21550-Q1 
X_U1         DT3 DT0 DT4 MIN_DT INVERTER
X_W2    VDDB N579074 VDDB_4A N579074 SCHEMATIC1_W2_UCC21550-Q1 
X_W3    VDDA N580606 VDDA_4A N580606 SCHEMATIC1_W3_UCC21550-Q1 
X_W4    VSSA_6A N580764 VSSA N580764 SCHEMATIC1_W4_UCC21550-Q1 
X_W5    VSSB_6A N581314 VSSB N581314 SCHEMATIC1_W5_UCC21550-Q1 
.ENDS  UCC21550-Q1
*
.SUBCKT INVERTER 1 2 3 4  
VCS1     1 2
ECS1        3 4 VALUE = {(-6.1E-6)/I(VCS1)}
.ENDS  INVERTER
*
.SUBCKT SCHEMATIC1_S29_UCC21550-Q1 1 2 3 4  
S_S29         3 4 1 2 _S29
RS_S29         1 2 1G
.MODEL         _S29 VSWITCH ROFF=1E9 RON=1 VOFF=0.5 VON=1.2
.ENDS  SCHEMATIC1_S29_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S39_UCC21550-Q1 1 2 3 4  
S_S39         3 4 1 2 _S39
RS_S39         1 2 1G
.MODEL         _S39 VSWITCH ROFF=1 RON=1E5 VOFF=-1 VON=0
.ENDS  SCHEMATIC1_S39_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S40_UCC21550-Q1 1 2 3 4  
S_S40         3 4 1 2 _S40
RS_S40         1 2 1G
.MODEL         _S40 VSWITCH ROFF=1 RON=1E6 VOFF=-1 VON=0
.ENDS  SCHEMATIC1_S40_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S41_UCC21550-Q1 1 2 3 4  
S_S41         3 4 1 2 _S41
RS_S41         1 2 1G
.MODEL         _S41 VSWITCH ROFF=1 RON=1E5 VOFF=-1 VON=0
.ENDS  SCHEMATIC1_S41_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S42_UCC21550-Q1 1 2 3 4  
S_S42         3 4 1 2 _S42
RS_S42         1 2 1G
.MODEL         _S42 VSWITCH ROFF=1 RON=1E6 VOFF=-1 VON=0
.ENDS  SCHEMATIC1_S42_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S46_UCC21550-Q1 1 2 3 4  
S_S46         3 4 1 2 _S46
RS_S46         1 2 1G
.MODEL         _S46 VSWITCH ROFF=1E6 RON=1 VOFF=0.9 VON=1.2
.ENDS  SCHEMATIC1_S46_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S47_UCC21550-Q1 1 2 3 4  
S_S47         3 4 1 2 _S47
RS_S47         1 2 1G
.MODEL         _S47 VSWITCH ROFF=1E6 RON=1 VOFF=0.9 VON=1.2
.ENDS  SCHEMATIC1_S47_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S54_UCC21550-Q1 1 2 3 4  
S_S54         3 4 1 2 _S54
RS_S54         1 2 1G
.MODEL         _S54 VSWITCH ROFF=1 RON=1000 VOFF=-1 VON=0
.ENDS  SCHEMATIC1_S54_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S55_UCC21550-Q1 1 2 3 4  
S_S55         3 4 1 2 _S55
RS_S55         1 2 1G
.MODEL         _S55 VSWITCH ROFF=3E6 RON=1 VOFF=1 VON=2
.ENDS  SCHEMATIC1_S55_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S56_UCC21550-Q1 1 2 3 4  
S_S56         3 4 1 2 _S56
RS_S56         1 2 1G
.MODEL         _S56 VSWITCH ROFF=1 RON=3E6 VOFF=1 VON=2
.ENDS  SCHEMATIC1_S56_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S57_UCC21550-Q1 1 2 3 4  
S_S57         3 4 1 2 _S57
RS_S57         1 2 1G
.MODEL         _S57 VSWITCH ROFF=1 RON=3E6 VOFF=1 VON=2
.ENDS  SCHEMATIC1_S57_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S58_UCC21550-Q1 1 2 3 4  
S_S58         3 4 1 2 _S58
RS_S58         1 2 1G
.MODEL         _S58 VSWITCH ROFF=1E9 RON=1 VOFF=0.5 VON=1.2
.ENDS  SCHEMATIC1_S58_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S59_UCC21550-Q1 1 2 3 4  
S_S59         3 4 1 2 _S59
RS_S59         1 2 1G
.MODEL         _S59 VSWITCH ROFF=1E6 RON=1 VOFF=1.9 VON=2.1
.ENDS  SCHEMATIC1_S59_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S60_UCC21550-Q1 1 2 3 4  
S_S60         3 4 1 2 _S60
RS_S60         1 2 1G
.MODEL         _S60 VSWITCH ROFF=1 RON=1E6 VOFF=0.9 VON=1.1
.ENDS  SCHEMATIC1_S60_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S61_UCC21550-Q1 1 2 3 4  
S_S61         3 4 1 2 _S61
RS_S61         1 2 1G
.MODEL         _S61 VSWITCH ROFF=1E6 RON=5 VOFF=8.4 VON=8.5
.ENDS  SCHEMATIC1_S61_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S62_UCC21550-Q1 1 2 3 4  
S_S62         3 4 1 2 _S62
RS_S62         1 2 1G
.MODEL         _S62 VSWITCH ROFF=1E6 RON=4.3 VOFF=8.4 VON=8.5
.ENDS  SCHEMATIC1_S62_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S64_UCC21550-Q1 1 2 3 4  
S_S64         3 4 1 2 _S64
RS_S64         1 2 1G
.MODEL         _S64 VSWITCH ROFF=0.54 RON=1E6 VOFF=1.5 VON=1.6
.ENDS  SCHEMATIC1_S64_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S65_UCC21550-Q1 1 2 3 4  
S_S65         3 4 1 2 _S65
RS_S65         1 2 1G
.MODEL         _S65 VSWITCH ROFF=1E6 RON=4.3 VOFF=8.4 VON=8.5
.ENDS  SCHEMATIC1_S65_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S66_UCC21550-Q1 1 2 3 4  
S_S66         3 4 1 2 _S66
RS_S66         1 2 1G
.MODEL         _S66 VSWITCH ROFF=1E6 RON=5 VOFF=8.4 VON=8.5
.ENDS  SCHEMATIC1_S66_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S67_UCC21550-Q1 1 2 3 4  
S_S67         3 4 1 2 _S67
RS_S67         1 2 1G
.MODEL         _S67 VSWITCH ROFF=0.54 RON=1E6 VOFF=1.5 VON=1.6
.ENDS  SCHEMATIC1_S67_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S68_UCC21550-Q1 1 2 3 4  
S_S68         3 4 1 2 _S68
RS_S68         1 2 1G
.MODEL         _S68 VSWITCH ROFF=1E6 RON=1 VOFF=1.9 VON=2.1
.ENDS  SCHEMATIC1_S68_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S69_UCC21550-Q1 1 2 3 4  
S_S69         3 4 1 2 _S69
RS_S69         1 2 1G
.MODEL         _S69 VSWITCH ROFF=1 RON=1E6 VOFF=0.9 VON=1.1
.ENDS  SCHEMATIC1_S69_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S70_UCC21550-Q1 1 2 3 4  
S_S70         3 4 1 2 _S70
RS_S70         1 2 1G
.MODEL         _S70 VSWITCH ROFF=1E6 RON=1 VOFF=2.7 VON=2.8
.ENDS  SCHEMATIC1_S70_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S71_UCC21550-Q1 1 2 3 4  
S_S71         3 4 1 2 _S71
RS_S71         1 2 1G
.MODEL         _S71 VSWITCH ROFF=1 RON=1E6 VOFF=2.4 VON=2.5
.ENDS  SCHEMATIC1_S71_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S72_UCC21550-Q1 1 2 3 4  
S_S72         3 4 1 2 _S72
RS_S72         1 2 1G
.MODEL         _S72 VSWITCH ROFF=30 RON=1E3 VOFF=0 VON=1
.ENDS  SCHEMATIC1_S72_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S73_UCC21550-Q1 1 2 3 4  
S_S73         3 4 1 2 _S73
RS_S73         1 2 1G
.MODEL         _S73 VSWITCH ROFF=1E6 RON=1 VOFF=8.5 VON=8.6
.ENDS  SCHEMATIC1_S73_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S74_UCC21550-Q1 1 2 3 4  
S_S74         3 4 1 2 _S74
RS_S74         1 2 1G
.MODEL         _S74 VSWITCH ROFF=50 RON=1E3 VOFF=0 VON=1
.ENDS  SCHEMATIC1_S74_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S75_UCC21550-Q1 1 2 3 4  
S_S75         3 4 1 2 _S75
RS_S75         1 2 1G
.MODEL         _S75 VSWITCH ROFF=1 RON=1E6 VOFF=7.8 VON=7.9
.ENDS  SCHEMATIC1_S75_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S76_UCC21550-Q1 1 2 3 4  
S_S76         3 4 1 2 _S76
RS_S76         1 2 1G
.MODEL         _S76 VSWITCH ROFF=1E6 RON=1 VOFF=8.5 VON=8.6
.ENDS  SCHEMATIC1_S76_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S77_UCC21550-Q1 1 2 3 4  
S_S77         3 4 1 2 _S77
RS_S77         1 2 1G
.MODEL         _S77 VSWITCH ROFF=50 RON=1E3 VOFF=0 VON=1
.ENDS  SCHEMATIC1_S77_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S78_UCC21550-Q1 1 2 3 4  
S_S78         3 4 1 2 _S78
RS_S78         1 2 1G
.MODEL         _S78 VSWITCH ROFF=1 RON=1E6 VOFF=7.8 VON=7.9
.ENDS  SCHEMATIC1_S78_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S79_UCC21550-Q1 1 2 3 4  
S_S79         3 4 1 2 _S79
RS_S79         1 2 1G
.MODEL         _S79 VSWITCH ROFF=25 RON=46 VOFF=0 VON=1
.ENDS  SCHEMATIC1_S79_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S80_UCC21550-Q1 1 2 3 4  
S_S80         3 4 1 2 _S80
RS_S80         1 2 1G
.MODEL         _S80 VSWITCH ROFF=1E6 RON=1 VOFF=1.9 VON=2.1
.ENDS  SCHEMATIC1_S80_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S81_UCC21550-Q1 1 2 3 4  
S_S81         3 4 1 2 _S81
RS_S81         1 2 1G
.MODEL         _S81 VSWITCH ROFF=1 RON=1E6 VOFF=0.9 VON=1.1
.ENDS  SCHEMATIC1_S81_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_DISA_UCC21550-Q1 1 2 3 4  
S_S_DISA         3 4 1 2 _S_DISA
RS_S_DISA         1 2 1G
.MODEL         _S_DISA VSWITCH ROFF=1E-3 RON=1E6 VOFF=4.9 VON=5.1
.ENDS  SCHEMATIC1_S_DISA_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_DISB_UCC21550-Q1 1 2 3 4  
S_S_DISB         3 4 1 2 _S_DISB
RS_S_DISB         1 2 1G
.MODEL         _S_DISB VSWITCH ROFF=1E-3 RON=1E6 VOFF=4.9 VON=5.1
.ENDS  SCHEMATIC1_S_DISB_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_DTA_UCC21550-Q1 1 2 3 4  
S_S_DTA         3 4 1 2 _S_DTA
RS_S_DTA         1 2 1G
.MODEL         _S_DTA VSWITCH ROFF=1E-3 RON=1E6 VOFF=0 VON=0.01
.ENDS  SCHEMATIC1_S_DTA_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_DTB_UCC21550-Q1 1 2 3 4  
S_S_DTB         3 4 1 2 _S_DTB
RS_S_DTB         1 2 1G
.MODEL         _S_DTB VSWITCH ROFF=1E-3 RON=1E6 VOFF=0 VON=0.01
.ENDS  SCHEMATIC1_S_DTB_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_UVLO_A_UCC21550-Q1 1 2 3 4  
S_S_UVLO_A         3 4 1 2 _S_UVLO_A
RS_S_UVLO_A         1 2 1G
.MODEL         _S_UVLO_A VSWITCH ROFF=1E6 RON=1E-3 VH=1 VT=5 TD=0
.ENDS  SCHEMATIC1_S_UVLO_A_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_UVLO_B_UCC21550-Q1 1 2 3 4  
S_S_UVLO_B         3 4 1 2 _S_UVLO_B
RS_S_UVLO_B         1 2 1G
.MODEL         _S_UVLO_B VSWITCH ROFF=1E6 RON=1E-3 VH=1 VT=5 TD=0
.ENDS  SCHEMATIC1_S_UVLO_B_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_UVLO_VCA_UCC21550-Q1 1 2 3 4  
S_S_UVLO_VCA         3 4 1 2 _S_UVLO_VCA
RS_S_UVLO_VCA         1 2 1G
.MODEL         _S_UVLO_VCA VSWITCH ROFF=1E6 RON=1E-3 VH=3.7 VT=5.3 TD=0
.ENDS  SCHEMATIC1_S_UVLO_VCA_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_S_UVLO_VCB_UCC21550-Q1 1 2 3 4  
S_S_UVLO_VCB         3 4 1 2 _S_UVLO_VCB
RS_S_UVLO_VCB         1 2 1G
.MODEL         _S_UVLO_VCB VSWITCH ROFF=1E6 RON=1E-3 VH=3.7 VT=5.3 TD=0
.ENDS  SCHEMATIC1_S_UVLO_VCB_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_W2_UCC21550-Q1 1 2 3 4  
W_W2         3 4 VW_W2 _W2
VW_W2         1 2 0V
.MODEL         _W2 ISWITCH ROFF=10E-3 RON=1E3 IOFF=3.75 ION=4.25
.ENDS  SCHEMATIC1_W2_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_W3_UCC21550-Q1 1 2 3 4  
W_W3         3 4 VW_W3 _W3
VW_W3         1 2 0V
.MODEL         _W3 ISWITCH ROFF=10E-3 RON=1E3 IOFF=3.75 ION=4.25
.ENDS  SCHEMATIC1_W3_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_W4_UCC21550-Q1 1 2 3 4  
W_W4         3 4 VW_W4 _W4
VW_W4         1 2 0V
.MODEL         _W4 ISWITCH ROFF=10E-3 RON=1E3 IOFF=5.75 ION=6.25
.ENDS  SCHEMATIC1_W4_UCC21550-Q1
*
.SUBCKT SCHEMATIC1_W5_UCC21550-Q1 1 2 3 4  
W_W5         3 4 VW_W5 _W5
VW_W5         1 2 0V
.MODEL         _W5 ISWITCH ROFF=10E-3 RON=1E3 IOFF=5.75 ION=6.25
.ENDS  SCHEMATIC1_W5_UCC21550-Q1
*
.MODEL R_NOISELESS RES (T_ABS=-273.15)