* source UCC21550-Q1
V_Vcc         VCCI 0 5Vdc
V_Vddb         VDDB BN 12Vdc
V_Vssa         AN VSSA 2Vdc
R_R1         0 N05211  10k TC=0,0 
V_V3         INB 0 DC 0 AC 0
+PULSE 0 5 0.5u 1n 1n 1u 10u
C_CL_a         AN OUTA  1n  TC=0,0 
V_Vdda         VDDA AN 12Vdc
V_Vssb         BN VSSB 2Vdc
C_CL_b         BN OUTB  1n  TC=0,0 
V_V4         INA 0 DC 0 AC 0
+PULSE 0 5 0u 1n 1n 1u 10u
X_U1         INA INB VCCI 0 0 N05211 VDDA OUTA VSSA VDDB OUTB VSSB UCC21550-Q1
